US08614327B2
A flask charged with 4-oxo-1H-quinoline-3-carboxylic acid (38 mg, 0.20 mmol), HBTU (76 mg, 0.20 mmol), Et3N (61 mg, 84 μL, 0.60 mmol) and DMF (2 mL) was heated at 60° C. for 15 minutes. To the reaction mixture was then added 3-tert-butylaniline (29.98 mg, 0.2009 mmol) and the reaction mixture was stirred at 60° C. for an additional 30 minutes. The reaction mixture was cooled to room temperature, filtered and purified via reverse phase HPLC using 10 to 99% CH3CN in H2O to obtain N-(3-tert-butylphenyl)-4-oxo-1H-quinoline-3-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ 12.94 (s, 1H), 12.45 (s, 1H), 8.89 (s, 1H), 8.34 (dd, J=1.1, 8.2 Hz, 1H), 7.84-7.80 (m, 1H), 7.76-7.71 (m, 2H), 7.62-7.53 (m, 2H), 7.29 (t, J=7.9 Hz, 1H), 7.15-7.12 (m, 1H), 1.31 (s, 9H). LC/MS: m/z 321.5 (M+H)+ at 1.8 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-oxo-1H-quinoline-3-carboxylic acid | 0.20 mmol, 38 mg | O=C1C(=CNC2=CC=CC=C12)C(=O)O | C10H7NO3
reactant | HBTU | 0.20 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.60 mmol, 84 μL, 61 mg | CCN(CC)CC | C6H15N
reactant | 3-tert-butylaniline | 0.2009 mmol, 29.98 mg | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(3-tert-butylphenyl)-4-oxo-1H-quinoline-3-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1=CNC2=CC=CC=C2C1=O | C20H20N2O2
